* C:\Users\Lukas\Desktop\Nueva carpeta\LtSpice.asc
V1 Vin 0 SINE(0 1 142.4 1u 1u 0s 1m) AC 1 0
V2 V+ 0 15
V3 0 V- 15
XU1 0 N004 V+ V- N002 TL081
XU2 0 N005 V+ V- H TL081
C11 N001 NC_01 1n
R11 N001 0 5.36k
C21 N004 N001 130n
C31 N002 N001 2.2n
R21 N002 N004 205k
C32 H N003 5.1n
R22 H N005 806k
C22 N005 N003 160n
R12 N003 0 1.69k
C12 N003 N002 10n
;ac dec 301 1 1e9
.tran 0 5 0 0.1
.include TL081.txt
;ac oct 301 1 1e9
.lib opamp.sub
.backanno
.end
